US08022062B2
(2-Benzyloxyethyl)-carbamic acid tert-butyl ester:
Dissolve tert-butyl-N-(2-hydroxyethyl)-carbamate (10 mL, 64.5 mmol) in anhydrous THY (500 mL) at 0° C. Add sodium hydride (60% in mineral oil, 3.1 g, 77.4 mmol) and stir for 30 min at 0° C. Add benzyl bromide (9.2 mL, 77 mmol) followed by tetrabutylammonium iodide (3.7 g, 10 mmol) and stir at ambient temperature overnight. Quench with water (500 mL), extract with diethyl ether (3×100 mL), wash the combined organic extracts with brine, dry over MgSO4, filter, and evaporate to give the desired intermediate (5 g), that was used without further purification.

reactant | tert-butyl-N-(2-hydroxyethyl)-carbamate | 64.5 mmol, 10 mL | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
reactant | sodium hydride | 77.4 mmol, 3.1 g | [H-].[Na+]
reactant | benzyl bromide | 77 mmol, 9.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutylammonium iodide | 10 mmol, 3.7 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2-Benzyloxyethyl)-carbamic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(NCCOCC1=CC=CC=C1)=O | C14H21NO3
